US04013635
2-Chloro-5-(m-fluorosulfonylbenzenesulfonamido)-4-(2-methylsulfonyl-4-nitrophenylazo)-1-naphthol.
5-(m-Fluorosulfonylbenzenesulfonamido)-4-(2-methylsulfonyl-4-nitrophenylazo)-1-naphthol (52 g.) (Compound A of Example 13 of U.S. Pat. No. 3,929,760, issued Dec. 30, 1975) is chlorinated by stirring with sulfuryl chloride (200 ml.) for 21 hours at 30°-31° C. The slurry is cooled to 15° and filtered. The resulting solid is then purified by stirring successively with 800 ml. ice water, 100 ml. methanol, 200 ml. acetone (40° C.), and 300 ml. acetone (40°), filtering the resulting slurry each time (acetone precooled to 30°) and washing the solid with the same kind of solvent. The yield is 40.3 g.

reactant | 5-(m-Fluorosulfonylbenzenesulfonamido)-4-(2-methylsulfonyl-4-nitrophenylazo)-1-naphthol | 52 g | FS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)NC1=C2C(=CC=C(C2=CC=C1)O)N=NC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)C | C23H17FN4O9S3
reactant | sulfuryl chloride | 200 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 2-Chloro-5-(m-fluorosulfonylbenzenesulfonamido)-4-(2-methylsulfonyl-4-nitrophenylazo)-1-naphthol | ClC1=C(C2=CC=CC(=C2C(=C1)N=NC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)C)NS(=O)(=O)C1=CC(=CC=C1)S(=O)(=O)F)O | C23H16ClFN4O9S3
